US06350778B1
a) Ethyl 5-chloro-2-methoxycinnamate
A solution of 10.6 g (48.2 mmol) of 2-bromo-4-chloroanisole in 30 ml of triethylamine was treated with 1 0.1 ml (81.2 mmol) of ethyl acrylate, 1.23 g of tri-o-tolylphosphine, and 0.45 g of palladium(II) acetate in an argon atmosphere. The reaction mixture was stirred at 100° C. for 2 days, then diluted with EA and filtered through Celite. The filtrate was washed with 1 N HCl and saturated NaCl solution, dried over Na2SO4, and concentrated. After chromatographic purification over SiO2 using EA/heptane (1:8) as an eluent, 0.85 g of the title compound resulted as a pale yellow oil.

reactant | 2-bromo-4-chloroanisole | 48.2 mmol, 10.6 g | BrC1=C(C=CC(=C1)Cl)OC | C7H6BrClO
reactant | ethyl acrylate | C(C=C)(=O)OCC | C5H8O2
reactant | tri-o-tolylphosphine | 1.23 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | triethylamine | 30 ml | C(C)N(CC)CC | C6H15N
solvent | EA | CC(OCC)=O | C4H8O2
catalyst | palladium(II) acetate | 0.45 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Ethyl 5-chloro-2-methoxycinnamate | 0.85 g | ClC=1C=CC(=C(C=CC(=O)OCC)C1)OC | C12H13ClO3
